US07652032B2
2-methylimidazo[1,2-α]pyridin-6-yl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the process in a manner similar to example 7, starting from 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide and 2-methyl-6-hydroxyimidazo[1,2-α]pyridine obtained according to preparation 5, the desired product is obtained in the form of a white solid with a yield of 13%.

reactant | 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide | C(C)(=O)O[C@H]1C(SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
reactant | 2-methyl-6-hydroxyimidazo[1,2-α]pyridine | CC=1N=C2N(C=C(C=C2)O)C1 | C8H8N2O
product | 2-methylimidazo[1,2-α]pyridin-6-yl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 13% | C(C)(=O)O[C@H]1[C@H](OC=2C=CC=3N(C2)C=C(N3)C)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C19H22N2O7S
